US05393875
A mixture of 239 mg (0.76 mmol) of rac-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamic acid, 250 mg (0.69 mmol) of (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide, 77 mg (0.76mmol) of triethylamine, 118 mg (0.76 mmol) of HOBT and 289 mg (0.76 mmol) of HBTU in 10 ml of dimethylformamide was stirred at room temperature overnight. Subsequently, the reaction solution was evaporated to dryness in a high vacuum, the residue was taken up in 75 ml of ethyl acetate and washed twice with 20 ml of saturated sodium hydrogen carbonate solution each time. The ethyl acetate solutions were dried over sodium sulphate and subsequently evaporated under reduced pressure. For purification and separation of the two epimeric products, the residue (450 mg) was chromatographed on 30 g of silica gel using a 97:3:0.1 o mixture of methylene chloride, methanol and ammonia as the eluent. After lyophilization from dioxan and water there were obtained the less polar epimer (S)-α-[(R)-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-imidazole-4-propionamide as a colourless amorphous powder, MS: 660 (M+H)+, and the more polar epimer (S)-α-[(S)-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamamido]-N-[(1S ,2R,3S)-1-(cyclohexylmethyl )-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide, likewise as a colourless amorphous powder, MS: 660 (M+H)+.

reactant | rac-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamic acid | 0.76 mmol, 239 mg | C(N)(=O)C(C)(C)S(=O)(=O)CC(C(=O)O)CC1=CC=CC=C1 | C14H19NO5S
reactant | (S)-α-amino-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]imidazole-4-propionamide | 0.69 mmol, 250 mg | N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1 | C19H32N4O3
reactant | triethylamine | 0.76mmol, 77 mg | C(C)N(CC)CC | C6H15N
reactant | HOBT | 0.76 mmol, 118 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HBTU | 0.76 mmol, 289 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (S)-α-[(R)-α-[[(1-carbamoyl-1-methylethyl)sulfonyl]methyl]hydrocinnamamido]-N-[(1S,2R,3S)-1-(cyclohexylmethyl)-3-cyclopropyl-2,3-dihydroxypropyl]-imidazole-4-propionamide | C(N)(=O)C(C)(C)S(=O)(=O)C[C@@H](C(=O)N[C@H](C(=O)N[C@H]([C@H]([C@@H](O)C1CC1)O)CC1CCCCC1)CC=1N=CNC1)CC1=CC=CC=C1 | C33H49N5O7S
